US09102614B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-(hydroxymethyl)naphthalen-2-yl)acetate:
To a solution of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-formylnaphthalen-2-yl)acetate (12 mg, 0.0283 mmol) in DCM/EtOH (1/1, 1 mL) at 0° C., was added NaBH4 (2 mg, 0.053 mmol) and the reaction mixture stirred at 0° C. for 2 h. The reaction was quenched by adding sat. NH4Cl. The resulting mixture was extracted with DCM, dried over MgSO4, filtered, concentrated in vacuo and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to provide 8 mg of the desired product. 1H-MNR 400 MHz (CDCl3) δ: 7.85 (s, 1H), 7.78 (d, J=4.0 Hz, 1H), 7.46-7.38 (m, 4H), 7.30-7.26 (m, 1H), 7.20-7.15 (m, 2H), 5.13 (s, 1H), 5.02 (d, J=6.2 Hz, 1H), 4.54 (d, J=6 Hz, 1H), 4.12-4.02 (m, 2H), 3.82 (bs, 1H), 1.14 (t, J=7 Hz, 3H), 1.01 (s, 9H).

reactant | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-formylnaphthalen-2-yl)acetate | 0.0283 mmol, 12 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C=O)C1=CC=C(C=C1)Cl | C25H25ClO4
reactant | NaBH4 | 0.053 mmol, 2 mg | [BH4-].[Na+]
solvent | THF MeOH | 1 mL | C1CCOC1.CO
product | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-(hydroxymethyl)naphthalen-2-yl)acetate | 8 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1CO)C1=CC=C(C=C1)Cl | C25H27ClO4
